**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:     White PLCC LED
* Matchcode:         WL-SWTP SMD White Top view PLCC
* Library Type:       Pspice
* Version:        rev18a       
* Date and Time   :       2018-8-4
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  3014_158301230  1  2
D1 1 2 led
.MODEL led D
+ IS=176.68E-12
+ N=5
+ RS=.72005
+ IKF=251.31E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3014_158301227  1  2
D1 1 2 led
.MODEL led D
+ IS=176.68E-12
+ N=5
+ RS=.72005
+ IKF=251.31E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3014_158301240  1  2
D1 1 2 led
.MODEL led D
+ IS=118.37E-12
+ N=4.8869
+ RS=2.9124
+ IKF=311.99E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3014_158301250  1  2
D1 1 2 led
.MODEL led D
+ IS=118.37E-12
+ N=4.8869
+ RS=2.9124
+ IKF=311.99E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.755
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3014_158301260  1  2
D1 1 2 led
.MODEL led D
+ IS=118.37E-12
+ N=4.8869
+ RS=2.9124
+ IKF=311.99E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.755
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  5630_158563427  1  2
D1 1 2 led
.MODEL led D
+ IS=561.10E-12
+ N=4.9950
+ RS=4.4821
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.755
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  5630_158563430  1  2
D1 1 2 led
.MODEL led D
+ IS=561.10E-12
+ N=4.9950
+ RS=4.4821
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  5630_158563440  1  2
D1 1 2 led
.MODEL led D
+ IS=13.734E-3
+ N=4.9950
+ RS=2.2036
+ IKF=303.44E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  5630_158563450  1  2
D1 1 2 led
.MODEL led D
+ IS=561.10E-12
+ N=4.9950
+ RS=4.4821
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  5630_158563460  1  2
D1 1 2 led
.MODEL led D
+ IS=561.10E-12
+ N=4.9950
+ RS=4.4821
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******

.subckt  3022_158302227  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.8408
+ RS=1.0000E-6
+ IKF=81.728E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3022_158302230  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.8408
+ RS=1.0000E-6
+ IKF=81.728E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3022_158302240  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.8408
+ RS=1.0000E-6
+ IKF=81.728E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3022_158302250  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.8408
+ RS=1.0000E-6
+ IKF=81.728E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3022_158302260  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.8408
+ RS=1.0000E-6
+ IKF=81.728E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3030_158303227A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.3988
+ RS=.94754
+ IKF=14.901
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.755
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3030_158303230A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.3988
+ RS=.94786
+ IKF=17.594
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.755
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3030_158303240A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.3988
+ RS=.94786
+ IKF=17.594
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3030_158303250A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.3988
+ RS=.94786
+ IKF=17.594
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3030_158303260A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.3988
+ RS=.94786
+ IKF=17.594
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3014_158301227A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3014_158301230A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3014_158301240A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3014_158301250A  1  2
D1 1 2 led
.MODEL led D
+ IS=330.17E-21
+ N=2.6943
+ RS=2.3544
+ IKF=278.04
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3014_158301260A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt 5630_158563227A 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4322
+ RS=2.0003
+ IKF=6.9861
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt 5630_158563230A 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4336
+ RS=1.7192
+ IKF=39.690
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt 5630_158563240A 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4270
+ RS=1.9247
+ IKF=18.933
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt 5630_158563250A 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4297
+ RS=1.8399
+ IKF=22.158
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt 5630_158563260A 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4519
+ RS=1.8461
+ IKF=15.007
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******


































